US05824691
A mixture of dimethyl 5-(trifluoromethylsulfonyloxy)isophthalate (2.3 g), dihydroxy-phenylborane (1.23 g) and triethylamine (2.0 4 g) in N,N-dimethylformamide (30 ml) was heated at 100° C. and stirred for 3 hours under nitrogen. After evaporating the solvent, the residue was dissolved in a mixture of dichlomethane (100 ml) and water. The organic layer was successively washed with aqueous 10% sodium carbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from hexane to afford dimethyl 5-phenylisophthalate (1.07 g).

reactant | dimethyl 5-(trifluoromethylsulfonyloxy)isophthalate | 2.3 g | FC(S(=O)(=O)OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC)(F)F | C11H9F3O7S
reactant | dihydroxy-phenylborane | 1.23 g | OB(C1=CC=CC=C1)O | C6H7BO2
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | dimethyl 5-phenylisophthalate | 1.07 g | C1(=CC=CC=C1)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C16H14O4
